US08541625B2
BBr3 (11.3 g, 45 mmol) was added to a solution of 1,2-bis(3-methoxyphenyl)ethane (Brunner et al., Inorg. Chim. Acta 2003, 350:39-48; 11.56 g; 47.8 mmol) in CH2Cl2 at −78° C. The reaction mixture was slowly warmed to room temperature, and stirred overnight. The reaction mixture was quenched with water, diluted with CH2Cl2, and the reaction mixture extracted with 2 M solution of NaOH (3×100 mL). The aqueous layer was slowly acidified at 0° C. with concentrated HCl to approximately pH=1, the grey precipitate was filtered, washed with water, dried in the air at room temperature, and then under vacuum at 85° C. over 5 hours to provide 10.3 g of crude 1,2-bis(3-hydroxyphenyl)ethane as grey solid.

reactant | BBr3 | 45 mmol, 11.3 g | B(Br)(Br)Br | BBr3
reactant | 1,2-bis(3-methoxyphenyl)ethane | 47.8 mmol, 11.56 g | COC=1C=C(C=CC1)CCC1=CC(=CC=C1)OC | C16H18O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1,2-bis(3-hydroxyphenyl)ethane | 10.3 g | OC=1C=C(C=CC1)CCC1=CC(=CC=C1)O | C14H14O2
